US06743926B2
2-Bromo-3-(4-fluorophenyl)-1-isopropyl-1H-indole
20 g (78.95 mmol) of 3-(4-fluorophenyl)-1-isopropyl-1H-indole, 200 ml of THF and 200 ml of chlorobenzene are introduced into a 1.5 liter sulfonating flask, equipped with an anchor stirrer, thermometer and nitrogen delivery line, and cooled to 3° C. with stirring. 26.58 g (78.95 mmol) of pyridinium bromide perbromide are then added and stirring is carried out for 1.25 hours at 3° C. 680 g of a 5% sodium hydrogen carbonate solution are then added dropwise in the course of 10 min. The phases are separated and the aqueous phase is extracted three times with 150 ml of chlorobenzene. The combined organic phases are washed twice with 340 ml of 5% sodium hydrogen carbonate solution and twice with 220 ml of water, dried over magnesium sulfate, filtered and concentrated by evaporation. The brown residue is dissolved in 125 ml of methylene chloride, 125 ml of 94% ethanol are added and the methylene chloride is distilled off at normal pressure. The solution is cooled slowly to room temperature and then to 3° C., and the precipitate is filtered off, washed three times with 10 ml of ice-cold 94% ethanol and dried overnight at RT/125 T. Beige crystals having a melting point of from 110 to 111.5° C. are obtained. Elemental analysis: Found 4.95% H; 61.23% C; 4.04% N; 22.9% Br; 5.67% F. Theory 4.55% H; 61.46% C; 4.22% N; 24.05% Br; 5.72% F.

reactant | 3-(4-fluorophenyl)-1-isopropyl-1H-indole | 78.95 mmol, 20 g | FC1=CC=C(C=C1)C1=CN(C2=CC=CC=C12)C(C)C | C17H16FN
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | pyridinium bromide perbromide | 78.95 mmol, 26.58 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chlorobenzene | 200 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-Bromo-3-(4-fluorophenyl)-1-isopropyl-1H-indole | BrC=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C | C17H15BrFN
